US06469003B1
A suspension of 6-acetyl-4-bromo-2-(4-fluorophenyl)-5-methyl-3(2H)-pyridazinone (3.2 g), ethylene glycol (3.1 g) and p-toluenesulfonic acid (0.2 g) in toluene (35 ml) was heated under reflux for 10 hours with removing water formed. After cooling on standing, the reaction mixture was extracted with ethyl acetate. After washing with a saturated aqueous sodium hydrogen carbonate solution and a brine, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, the resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:2), and the resulting crude crystals were washed with hexane to obtain 4-bromo-2-(4-fluorophenyl)-5-methyl-6-(2-methyl-1,3-dioxolan-2-yl)-3(2H)-pyridazinone (3.25 g).

reactant | 6-acetyl-4-bromo-2-(4-fluorophenyl)-5-methyl-3(2H)-pyridazinone | 3.2 g | C(C)(=O)C=1C(=C(C(N(N1)C1=CC=C(C=C1)F)=O)Br)C | C13H10BrFN2O2
reactant | ethylene glycol | 3.1 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-2-(4-fluorophenyl)-5-methyl-6-(2-methyl-1,3-dioxolan-2-yl)-3(2H)-pyridazinone | 3.25 g | BrC=1C(N(N=C(C1C)C1(OCCO1)C)C1=CC=C(C=C1)F)=O | C15H14BrFN2O3
